US09212186B2
N2-(6,6-dimethyl-6,7-dihydro-4H-pyrazolo[5,1-c][1,4]oxazin-3-yl)-N4-methyl-5-(trifluoromethyl)pyrimidine-2,4-diamine
A microwave vial equipped with a magnetic stirrer was charged with 6,6-dimethyl-6,7-dihydro-4H-pyrazolo[5,1-c][1,4]oxazin-3-amine (13 mg, 0.078 mmol), 2-chloro-N-methyl-5-(trifluoromethyl)pyrimidin-4-amine (20 mg, 0.095 mmol), and t-BuOH (0.5 mL). The mixture was heated at 100° C. under microwave irradiation for 15 min. After concentration, the residue was purified by prep-HPLC to give the title compound (9.5 mg, 36%). 1H NMR (500 MHz, CDCl3) δ 8.09 (s, 1H), 7.67 (s, 1H), 6.79 (s, 1H), 5.18 (s, 1H), 4.83 (s, 2H), 3.93 (s, 2H), 3.00 (d, J=4.5 Hz, 3H), 1.63 (s, 6H). LC-MS (Method B): m/z=343.3 (M+H)+, 4.77 min, 98.2% purity.

reactant | 6,6-dimethyl-6,7-dihydro-4H-pyrazolo[5,1-c][1,4]oxazin-3-amine | 0.078 mmol, 13 mg | CC1(CN2C(CO1)=C(C=N2)N)C | C8H13N3O
reactant | 2-chloro-N-methyl-5-(trifluoromethyl)pyrimidin-4-amine | 0.095 mmol, 20 mg | ClC1=NC=C(C(=N1)NC)C(F)(F)F | C6H5ClF3N3
solvent | t-BuOH | 0.5 mL | CC(C)(C)O | C4H10O
product | N2-(6,6-dimethyl-6,7-dihydro-4H-pyrazolo[5,1-c][1,4]oxazin-3-yl)-N4-methyl-5-(trifluoromethyl)pyrimidine-2,4-diamine | 9.5 mg, 36% | CC1(CN2C(CO1)=C(C=N2)NC2=NC=C(C(=N2)NC)C(F)(F)F)C | C14H17F3N6O
